US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-propyl-1H-indole-4,5-dicarbonitrile
Synthesized as described in Example 4 from 2-propyl-1H-indole-4,5-dicarbonitrile and 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine: 1H NMR (400 MHz, DMSO-d6) δ 9.05 (d, J=1.7 Hz, 1H), 8.95 (d, J=2.1 Hz, 1H), 8.48 (s, 1H), 8.16 (s, 1H), 7.91 (d, J=8.7 Hz, 1H), 7.57 (d, J=8.7 Hz, 1H), 6.05 (s, 2H), 3.07 (t, J=7.6 Hz, 2H), 1.78-1.67 (m, 2H), 0.96 (t, J=7.6 Hz, 3H); MS (ES) m/z 448 (M+1).

reactant | 2-propyl-1H-indole-4,5-dicarbonitrile | C(CC)C=1NC2=CC=C(C(=C2C1)C#N)C#N | C13H11N3
reactant | 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine | BrC=1C=NC=C(C1)C=1OC(=NN1)CCl | C8H5BrClN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-propyl-1H-indole-4,5-dicarbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)C#N)CCC | C21H15BrN6O
